US04985409
500 ml of acetic anhydride and 500 ml of pyridine were added to 100 g of inosine, and the reaction mixture was stirred for 4 to 10 hours at room temperature. After concentration under reduced pressure, the precipitated crystalline was separated by filtration, washed with water and dried to give 132 g of 2',3',5'-O)-triacetylinosine (yield: 98%)

reactant | acetic anhydride | 500 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | inosine | 100 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | triacetylinosine | yield: 98% | C(C)(=O)[C@@]1([C@]([C@@](O[C@@H]1CO)(N1C=NC=2C(O)=NC=NC12)C(C)=O)(O)C(C)=O)O | C16H18N4O8
